* C:\Users\Koltin Kosik-Harvey\Documents\GitHub\Analog-Drum-Machine\Kick Drum\Simulation\Drum.asc
V1 VCC 0 15 Rser=0.01
V2 0 VEE 15 Rser=0.01
R1 N014 VELOCITY 22k
R2 N014 0 10k
Q1 N013 N014 0 0 2N3904
R3 N011 N013 10k
R4 TRIG N011 4.7k
Q2 Vtrig N011 TRIG 0 BC857A
R5 N007 Vtrig 8.2k
R6 0 N007 2.7k
Q3 N004 N007 0 0 2N3904
C1 N004 0 100n
R§500kTrim VCC N004 47k
C2 Vrp N001 0.033µ
D1 Vrp 0 1N4148
C3 N012 Vtrig 0.015µ
R9 N012 Vtrig 100k
R10 N012 0 4.7k
D2 0 N012 1N4148
XU1 N012 N003 VCC VEE Vbridge-t LT1001
R11 N003 Vbridge-t 4700k
C4 FREQ N003 0.01µ
C5 Vbridge-t FREQ 0.01µ
R§50kTrim FREQ Vc 10k
R§100kTrim2 Vc 0 40k
R14 FREQ Vrp 1000k
R15 LOWPASS FREQ 470k
R18 Vtone Vbridge-t 3.3k
C6 Vtone 0 1µ
R20 DECAY Vbridge-t 47k
XU2 N009 DECAY VCC VEE LOWPASS LT1001
R21 N009 0 22k
R§500kTrim2 P001 DECAY 47k
C7 LOWPASS P001 0.1µ
R23 LOWPASS DECAY 5k
C8 Vlevel Vtone 2.2µ
R24 Vlevel 0 5k
V3 TRIG 0 PULSE(0 5 0.001 0.0001 0.0001 0.001 0.8 4) Rser=0.01
V4 VELOCITY 0 10 Rser=0.01
XU3 0 N010 VCC VEE OUT LT1001
R25 N010 Vlevel 5k
R26 OUT N010 5k
Q7 Vc N006 0 0 2N3904
R7 N008 0 4.7k
D3 N008 N002 D
Q4 VCC N004 N008 0 2N3906
D4 N002 N005 D
C9 N002 0 2.2µ
R8 N006 N005 47k
C10 N005 0 2.2µ
R12 N005 0 10k
R13 N002 0 10k
D5 N002 N001 D
.model D D
.lib C:\Users\Koltin Kosik-Harvey\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Koltin Kosik-Harvey\Documents\LTspiceXVII\lib\cmp\standard.bjt
.wave "C:\Users\Koltin Kosik-Harvey\Documents\GitHub\Analog-Drum-Machine\Kick Drum\drum.wav" 16 44.1k V(out)
.tran 0 4 0 0.00001
.lib LTC.lib
.backanno
.end
