* C:\Users\Koltin Kosik-Harvey\Documents\GitHub\Analog-Drum-Machine\Kick Drum\Simulation\Drum.asc
V1 VCC 0 12 Rser=0.01
V2 0 VEE 12 Rser=0.01
R1 N021 VELOCITY 22k
R2 N021 0 10k
Q1 N020 N021 0 0 2N3904
R3 N018 N020 10k
R4 TRIG N018 4.7k
Q2 Vtrig N018 TRIG 0 BC857A
R5 N010 Vtrig 8.2k
R6 0 N010 2.7k
Q3 N007 N010 0 0 2N3904
C1 N007 0 100n
R§500kTrim VCC N007 47k
C2 Vrp N001 0.033µ
D1 Vrp 0 1N4148
C3 N019 Vtrig 0.015µ
R9 N019 Vtrig 100k
R10 N019 0 4.7k
D2 0 N019 1N4148
XU1 N019 N006 VCC VEE Vbridge-t LT1001
R11 N006 Vbridge-t 2200k
C4 FREQ N006 22n
C5 Vbridge-t FREQ 22n
R§50kTrim FREQ Vc 5k
R§100kTrim2 Vc 0 10k
R14 FREQ Vrp 1000k
R15 N002 FREQ 1000k
R18 Vtone Vbridge-t 3.3k
C6 Vtone 0 1µ
R20 DECAY Vbridge-t 47k
XU2 N013 DECAY VCC VEE LOWPASS LT1001
R21 N013 0 22k
C7 LOWPASS DECAY 0.2µ
R23 LOWPASS DECAY 10k
C8 Vlevel Vtone 2.2µ
R24 Vlevel 0 5k
V3 TRIG 0 PULSE(0 5 0.001 0.0001 0.0001 0.001 0.8 4) Rser=0.01
V4 VELOCITY 0 12 Rser=0.01
XU3 0 N017 VCC VEE OUT LT1001
R25 N017 Vlevel 5k
R26 OUT N017 5k
Q7 Vc N009 0 0 2N3904
R7 N011 0 4.7k
D3 N011 N005 D
Q4 VCC N007 N011 0 2N3906
D4 N005 N008 D
C9 N005 0 2.2µ
R8 N009 N008 47k
C10 N008 0 2.2µ
R12 N008 0 2k
R13 N005 0 10k
D5 N005 N001 D
R16 DECAY Vbridge-t 47k
XU4 N016 DECAY VCC VEE N003 LT1001
R17 N016 0 22k
R22 N003 DECAY 25k
R27 N003 Vfeedback 1k
XU5 Vfeedback N004 VCC VEE N004 LT1001
R28 Vfeedback N012 1k
C11 N003 DECAY 1n
C12 N004 N002 2.2µ
XU6 LOWPASS N015 NC_01 NC_02 N014 LT1001
R29 N015 0 10k
R30 N014 N015 20k
C13 N012 N014 2.2µ
.model D D
.lib C:\Users\Koltin Kosik-Harvey\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Koltin Kosik-Harvey\Documents\LTspiceXVII\lib\cmp\standard.bjt
.wave "C:\Users\Koltin Kosik-Harvey\Documents\GitHub\Analog-Drum-Machine\Kick Drum\drum.wav" 16 44.1k V(out)
.tran 0 1.59 0 0.00001
.lib LTC.lib
.backanno
.end
