* C:\Users\minid\Documents\GitHub\Analog-Drum-Machine\Kick Drum\Simulation\Drum.asc
V1 VCC 0 12 Rser=0.01
V2 0 VEE 12 Rser=0.01
R1 N019 VELOCITY 22k
R2 N019 0 10k
Q1 N018 N019 0 0 2N3904
R3 N016 N018 10k
R4 TRIG N016 4.7k
Q2 Vtrig N016 TRIG 0 BC857A
R5 N011 Vtrig 8.2k
R6 0 N011 2.7k
Q3 N008 N011 0 0 2N3904
C1 N008 0 100n
R§500kTrim VCC N008 47k
C2 Vrp N002 0.033µ
D1 Vrp 0 1N4148
C3 N017 Vtrig 0.015µ
R9 N017 Vtrig 100k
R10 N017 0 4.7k
D2 0 N017 1N4148
XU1 N017 N005 VCC VEE Vbridge-t LT1001
R11 N005 Vbridge-t 2200k
C4 FREQ N005 22n
C5 Vbridge-t FREQ 22n
R§50kPot FREQ Vc 5k
R§100kPot2 Vc 0 12k
R14 FREQ Vrp 1000k
R15 Vfeedback FREQ 1000k
R20 N006 Vbridge-t 47k
XU2 N013 N006 VCC VEE N007 LT1001
R21 N013 0 22k
C7 N006 N007 40n
R23 N007 N006 47k
V3 TRIG 0 PULSE(0 5 0.001 0.0001 0.0001 0.001 0.8 4) Rser=0.01
V4 VELOCITY 0 12 Rser=0.01
Q7 Vc N010 0 0 2N3904
R7 N012 0 4.7k
D3 N012 N003 D
Q4 VCC N008 N012 0 2N3906
D4 N003 N009 D
C9 N003 0 2.2µ
R8 N010 N009 47k
C10 N009 0 2.2µ
R12 N009 0 1000
R13 N003 0 10k
D5 N003 N002 D
R16 100kTrim Vbridge-t 47k
R17 N015 0 22k
R27 neg_fb N001 10k
XU4 N015 100kTrim VCC VEE neg_fb LT1001
R19 neg_fb 100kTrim 40k
XU5 N004 N001 VCC VEE Vfeedback LT1001
XU6 N007 N014 VCC VEE 100kPot LT1001
R22 100kPot N014 40k
R28 0 N014 10k
R29 N004 100kPot 5k
Q5 N020 N022 N025 0 2N3904
R30 N022 VEE 3.3k
R31 VCC N022 20k
R32 VCC N020 1k
R33 N025 VEE 1k
C14 OUT N025 2.2µ
R34 OUT 0 10k
Q6 N021 N024 N026 0 2N3904
R18 N024 VEE 3.3k
R24 VCC N024 10k
R25 VCC N021 1000
R26 N026 VEE 560
C6 N022 N021 2.2µ
C13 N024 N023 2.2µ
C8 N023 0 100n
R35 Vbridge-t N023 3300
C15 N021 0 100n
C16 N017 0 100n
R38 N004 0 1k
R39 N001 Vfeedback 1k
.model D D
.lib C:\Users\minid\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\minid\Documents\LTspiceXVII\lib\cmp\standard.bjt
.wave "C:\Users\minid\Documents\GitHub\Analog-Drum-Machine\Kick Drum\drum.wav" 16 44.1k V(out)
.tran 0 1.59 0 0.00001
.lib LTC.lib
.backanno
.end
