* C:\Users\Koltin Kosik-Harvey\Documents\GitHub\Analog-Drum-Machine\Kick Drum\Simulation\Drum.asc
V1 VCC 0 12 Rser=0.01
V2 0 VEE 12 Rser=0.01
R3 N015 0 10k
R4 TRIG N015 4.7k
Q2 Vtrig N015 TRIG 0 BC857A
R5 N010 Vtrig 8.2k
R6 0 N010 2.7k
Q3 N007 N010 0 0 2N3904
C1 N007 0 100n
R§500kTrim VCC N007 47k
C2 Vrp N002 0.1µ
D1 Vrp 0 1N4148
C3 N016 Vtrig 0.15µ
R9 N016 Vtrig 100k
R10 N016 0 4.7k
D2 0 N017 1N4148
XU1 N017 N004 VCC VEE Vbridge-t LT1001
R11 N004 Vbridge-t 2200k
C4 FREQ N004 22n
C5 Vbridge-t FREQ 22n
R§50kPot FREQ Vc 3k
R§25kPot2 Vc 0 7k
R14 FREQ Vrp 1000k
R15 Vfeedback FREQ 1000k
R20 N005 Vbridge-t 47k
XU2 N012 N005 VCC VEE N006 LT1001
R21 N012 0 22k
C7 N005 N006 40n
R23 N006 N005 47k
V3 TRIG 0 PULSE(0 5 0.001 0.0001 0.0001 0.001 0.8 4) Rser=0.01
V4 VELOCITY 0 12 Rser=0.01
Q7 Vc N009 0 0 2N3904
R7 N011 0 4.7k
D3 N011 N002 D
Q4 N011 N007 VCC 0 2N3906
D4 N002 N008 D
C9 N002 0 2.2µ
R8 N009 N008 47k
C10 N008 0 2.2µ
R12 N008 0 1000
R13 N002 0 10k
R16 100kTrim Vbridge-t 47k
R17 N014 0 22k
R27 neg_fb N001 10k
XU4 N014 100kTrim VCC VEE neg_fb LT1001
R19 neg_fb 100kTrim 20k
XU5 N003 N001 VCC VEE Vfeedback LT1001
XU6 N006 N013 VCC VEE 100kPot LT1001
R22 100kPot N013 40k
R28 0 N013 10k
R29 N003 100kPot 22k
Q5 N018 N020 N021 0 2N3904
R30 N020 VEE 10k
R31 VCC N020 10k
R33 N021 VEE 10k
C14 OUT N021 2.2µ
R34 OUT 0 10k
C6 N020 N019 2.2µ
C8 N019 0 100n
R35 Vbridge-t N019 1k
C16 N017 0 0.1µ
R38 N003 0 1k
R39 N001 Vfeedback 1k
R18 N019 0 500
C11 0 N018 1µ
R24 VCC N018 220
R25 N017 N016 80k
.model D D
.lib C:\Users\Koltin Kosik-Harvey\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Koltin Kosik-Harvey\Documents\LTspiceXVII\lib\cmp\standard.bjt
.wave "C:\Users\Koltin Kosik-Harvey\Documents\GitHub\Analog-Drum-Machine\Kick Drum\drum.wav" 16 44.1k V(out)
.tran 0 1.59 0 0.00001
.lib LTC.lib
.backanno
.end
